US05160662
In 50 ml of dry THF, were suspended 3.0 g of oa (6-methoxy-2-naphthyl)-propanamide, followed by adding thereto 8.3 g of trifluoroacetic anhydride and then stirring at room temperature for 12 hours. The resulting reaction mixture was poured into 200 ml of iced water, and then precipitated white solid was filtered off. After purifying with silica gel column, the product was recrystallized twice with ethanol to obtain 2.1 g of oa (6-methoxy-2-naphthyl)propanonitrile (Compound No. 1-1) of this invention.

reactant | (6-methoxy-2-naphthyl)-propanamide | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)N)C | C14H15NO2
reactant | trifluoroacetic anhydride | 8.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 200 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (6-methoxy-2-naphthyl)propanonitrile | COC=1C=C2C=CC(=CC2=CC1)C(C#N)C | C14H13NO
